US06174874B1
Step 1 1-Benzyl-1H-benzotriazole
To a solution of benzotriazole (1.2 g, 10.1 mmol) in DMF (40 mL) at r.t. was added a solution of 1M t-BuOK in THF (11 mL, 1 mmol). After stirring for 30 min., benzyl bromide (2.0 g, 11.6 mmol) was added. The mixture was further stirred for 1 h, diluted with H2O, extracted with EtOAc. The EtOAc extract was washed H2O (3×), dried (MgSO4) and concentrated. The residue was swished with hexanes containing small amount of Et2O to give 1.2 g (57%) of title compound as white powders.

reactant | benzotriazole | 10.1 mmol, 1.2 g | N1N=NC2=C1C=CC=C2 | C6H5N3
reactant | t-BuOK | 1M | CC(C)(C)[O-].[K+]
reactant | THF | 1 mmol, 11 mL | C1CCOC1 | C4H8O
reactant | benzyl bromide | 11.6 mmol, 2.0 g | C(C1=CC=CC=C1)Br | C7H7Br
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
solvent | H2O | O | H2O
product | 1-Benzyl-1H-benzotriazole | 1.2 g, 57% | C(C1=CC=CC=C1)N1N=NC2=C1C=CC=C2 | C13H11N3
